US08865725B2
A 0.1 M solution of tetra-N-butylammonium hydroxide in a mixture of MeOH and 2-propanol (90 mL, 9.0 mmol) was added dropwise to a stirred suspension of cytosine (1 g, 9.0 mmol) in DMF (70 mL). The solution became clear and benzyl bromide (2.14 mL, 18 mmol) was added dropwise. The reaction mixture was stirred at RT for 2 hours and then the solvents were evaporated in vacuo. The crude product was purified by flash column chromatography (silica; MeOH in DCM with a gradient of 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield 4-amino-1-benzyl-1H-pyrimidin-2-one (1 g, 57% yield) as a white solid.

reactant | tetra-N-butylammonium hydroxide | CCCC[N+](CCCC)(CCCC)CCCC.[OH-]
reactant | 2-propanol | 9.0 mmol, 90 mL | CC(C)O | C3H8O
reactant | cytosine | 9.0 mmol, 1 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | benzyl bromide | 18 mmol, 2.14 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | MeOH | CO | CH4O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 4-amino-1-benzyl-1H-pyrimidin-2-one | 1 g, 57% yield | NC1=NC(N(C=C1)CC1=CC=CC=C1)=O | C11H11N3O
